US06797718B2
Ammonium acetate (25 g, 0.32 mol) and 1-[2-(benzyloxy)ethyl]-2-(ethoxymethyl)-6-methyl-4-phenoxy-1H-imidazo[4,5-c]pyridine (2.5 g, 6.0 mmol) were heated at 150° C. in a sealed tube for 22 hours. The resulting solution was adjusted to pH 14 with the addition of 20% sodium hydroxide, and water (50 mL) was added. The mixture was stirred for several hours to provide a yellow precipitate, which was isolated by filtration. The precipitate (1.75 g) was recrystallized from a 50:50 mixture of hexane:ethyl acetate (29 mL/g), and the crystals were isolated by filtration and dried under vacuum for 23 hours at 60° C. to provide 1.05 g of 1-[2-(benzyloxy)ethyl]-2-(ethoxymethyl)-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine as small white crystals, mp. 127-128° C.

reactant | Ammonium acetate | 0.32 mol, 25 g | C(C)(=O)[O-].[NH4+]
reactant | 1-[2-(benzyloxy)ethyl]-2-(ethoxymethyl)-6-methyl-4-phenoxy-1H-imidazo[4,5-c]pyridine | 6.0 mmol, 2.5 g | C(C1=CC=CC=C1)OCCN1C(=NC=2C(=NC(=CC21)C)OC2=CC=CC=C2)COCC | C25H27N3O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 50 mL | O | H2O
product | 1-[2-(benzyloxy)ethyl]-2-(ethoxymethyl)-6-methyl-1H-imidazo[4,5-c]pyridin-4-amine | 1.05 g | C(C1=CC=CC=C1)OCCN1C(=NC=2C(=NC(=CC21)C)N)COCC | C19H24N4O2
